US07160888B2
Synthesis of 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-1H-[1,8]naphthyridin-2-one
7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-1H-[1,8]naphthyridin-2-one (160 mg, 0.361 mmol) was hydrogenated using Raney Nickel (0.2 g) in MeOH for 42 h. The reaction was filtered and concentrated. Purification by liquid chromatography (5% MeOH/CH2Cl2 with 1% NH4OH) gave the title compound as a white foam (109 mg, 0.245 mmol, 68%), which was further purified by HPLC to remove a small amount of over-reduced side-product. MS: APCI: M−1: 443.1 (Exact Mass: 444.15).

reactant | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pent-1-enyl}-1H-[1,8]naphthyridin-2-one | 0.361 mmol, 160 mg | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC=CC1=CC=C2C=CC(NC2=N1)=O | C23H24Cl2N4O
catalyst | Raney Nickel | 0.2 g | [Ni] | Ni
solvent | MeOH | CO | CH4O
product | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-1H-[1,8]naphthyridin-2-one | 0.245 mmol, 109 mg, 68% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCCC1=CC=C2C=CC(NC2=N1)=O | C23H26Cl2N4O
